US05017604
According to the procedure of Example 3, 1-(2-chloro-3-nitrophenyl)ethanone (9.0 g, 44.6 mmol) is reacted with sodium borohydride (0.84 g, 22.3 mmol) to give 2-chloro-α-methyl-3-nitrobenzenemethanol (7.5 g, 83%), mp=62-64° C.

reactant | 1-(2-chloro-3-nitrophenyl)ethanone | 44.6 mmol, 9.0 g | ClC1=C(C=CC=C1[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | sodium borohydride | 22.3 mmol, 0.84 g | [BH4-].[Na+]
product | 2-chloro-α-methyl-3-nitrobenzenemethanol | 7.5 g, 83% | ClC1=C(C=CC=C1[N+](=O)[O-])C(O)C | C8H8ClNO3
